US05792788
2[-(2-(5-Chloro-2-methoxybenzoylamino)ethyl]-5-(methylaminocarbonylaminosulfonyl)thiophene
120 mg of powdered NaOH and 141 mg of N-methyltrichloro-acetamide (0.8 mmol) were added to 299 mg (0.8 mmol) of 2-[2-(5-chloro-2-methoxybenzoylamino)ethyl]-5-sulfamoyl-thiophene in 9 ml of DMSO. The mixture was stir 65° C. for 1.5 hours. After cooling, it was stirred into ice water of pH 2. The precipitate was filtered off with suction and taken up in CH2Cl2, and the solution was washed with water and dried using MgSO4. After evaporating the solvent, a yellow-brown crude product remained which, after treatment with CH2Cl2 /5% methanol, crystallized at -4° C.

reactant | NaOH | 120 mg | [OH-].[Na+]
reactant | N-methyltrichloro-acetamide | 0.8 mmol, 141 mg | CNC(C(Cl)(Cl)Cl)=O | C3H4Cl3NO
reactant | 2-[2-(5-chloro-2-methoxybenzoylamino)ethyl]-5-sulfamoyl-thiophene | 0.8 mmol, 299 mg | ClC=1C=CC(=C(C(=O)NCCC=2SC(=CC2)S(N)(=O)=O)C1)OC | C14H15ClN2O4S2
solvent | DMSO | 9 ml | CS(=O)C | C2H6OS
product | (2-(5-Chloro-2-methoxybenzoylamino)ethyl]-5-(methylaminocarbonylaminosulfonyl)thiophene | ClC=1C=CC(=C(C(=O)NCCC=2SC(=CC2)S(=O)(=O)NC(=O)NC)C1)OC | C16H18ClN3O5S2
